US05266728
67.0 g (269 mmol) of the Diels-Alder adduct was dissolved in 1040 ml of a mixture solvent of tetrahydrofuran-water (5:2), 70.5 g (1.08 mol) of potassium hydroxide (85%) in 300 ml of water was added on ice cooling, and the mixture was stirred at room temperature for 24 hours. After distilling out tetrahydrofuran, the product was neutralized with 94 ml of concentrated hydrochloric acid and extracted with a mixture solvent of hexane-methylene chloride (98:2) (200 ml×4). The extract was dried on anhydrous magnesium sulfate, the solution was filtered, and the solvent was distilled off to obtain 38.8 g of crude 5-norbornene-2-carboxylic acid. Crude yield: 100%.

reactant | potassium hydroxide | 1.08 mol, 70.5 g | [OH-].[K+]
reactant | tetrahydrofuran water | O1CCCC1.O
solvent | water | 300 ml | O | H2O
product | 5-norbornene-2-carboxylic acid | 38.8 g | C12C(CC(C=C1)C2)C(=O)O | C8H10O2
